US08486962B2
A solution of dimethyl-(2-methyl-4-nitro-phenyl)-amine (0.49 g, 2.74 mmol) in methanol (10 ml) was hydrogenated over 10% Pd/C at 30 psi until no further gas uptake was observed. The reaction mixture was then filtered over celite and the filtrate evaporated to yield 4-amino-2-methyl-N,N-dimethyl aniline (0.3 g, 73%).

reactant | dimethyl-(2-methyl-4-nitro-phenyl)-amine | 2.74 mmol, 0.49 g | CN(C1=C(C=C(C=C1)[N+](=O)[O-])C)C | C9H12N2O2
solvent | methanol | 10 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 4-amino-2-methyl-N,N-dimethyl aniline | 0.3 g, 73% | NC1=CC(=C(N(C)C)C=C1)C | C9H14N2
